US04786672
Preparation of 2,4-bis-(2-hydroxyethylamino)-6-(3-hydroxyanilino)-1,3,5-triazine
70.1 g (0.3 mol) of 2,4-bis-(2-hydroxyethylamino)-6-chloro-1,3,5-triazine, 32.8 g (0.3 mol) of 3-hydroxyaniline and 400 ml of water are placed in a 2 l flask equipped with a stirrer, a dropping funnel, a reflux condenser and a thermometer. The mixture is heated under reflux, with stirring. In the course of this, a solution of 12 g of sodium hydroxide in 60 ml of water is added dropwise slowly at such a rate that a slightly alkaline reaction mixture results. 300 ml of water are then added, as well as active charcoal for the removal of colour. The hot solution is then filtered and cooled. The resulting, virtually colourless crystals are filtered off with suction, washed free from chloride with a little water and dried. The product has a melting point of 142°-143° C. The yield is 70.8 g (=77% of theory).

reactant | 2,4-bis-(2-hydroxyethylamino)-6-chloro-1,3,5-triazine | 0.3 mol, 70.1 g | OCCNC1=NC(=NC(=N1)NCCO)Cl | C7H12ClN5O2
reactant | 3-hydroxyaniline | 0.3 mol, 32.8 g | OC=1C=C(N)C=CC1 | C6H7NO
reactant | sodium hydroxide | 12 g | [OH-].[Na+]
solvent | water | 60 ml | O | H2O
solvent | water | 300 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | 2,4-bis-(2-hydroxyethylamino)-6-(3-hydroxyanilino)-1,3,5-triazine | OCCNC1=NC(=NC(=N1)NCCO)NC1=CC(=CC=C1)O | C13H18N6O3
